US05250669
(1) Synthesis of 2-methyl-2-(2-phenylethyl)-1,3-dioxane-4,6-dione
To a solution of malonic acid (56.7 g, 0.55 mol) and acetic anhydride (73 ml), sulfuric acid (2 ml) was added dropwise at 5°-10° C. and stirring was continued for 20 min at the same temperature. To this mixture, 4-phenyl-2-butanone (105 g, 0.7 mol) was added dropwise at 15°-20° C. and stirring was continued for 15 h at the same temperature. The reaction mixture was taken up into H2O, extracted with chloroform, then the organic extract was washed with H2O, dried over anhydrous MgSO4 and evaporated. The resultant solid was recrystallized from aqueous acetone to give the title compound as a white amorphous solid; yield: 68.0 g; mp. 63.0°-65.0° C.

reactant | malonic acid | 0.55 mol, 56.7 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetic anhydride | 73 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-phenyl-2-butanone | 0.7 mol, 105 g | C1(=CC=CC=C1)CCC(C)=O | C10H12O
solvent | H2O | O | H2O
product | 2-methyl-2-(2-phenylethyl)-1,3-dioxane-4,6-dione | CC1(OC(CC(O1)=O)=O)CCC1=CC=CC=C1 | C13H14O4
